US07521455B2
(1) Manufacture of 3-[(3S)-3-methylpiperidin-1-yl]propan-1-ol
(3S)-3-methyl-piperidine/(S)-(+)-mandelate (19.9 g, 79.1 mmol), 3-bromo-1-propanol (10 g, 71.9 mmol) and potassium carbonate (14.9 g, 108 mmol) were mixed in tetrahydrofuran (200 mL), and heated under reflux for 30 hours. The insoluble matter was filtered off, the filtrate was concentrated, and ethyl acetate and hexane were added to the residue. The insoluble matter produced was filtered off, the filtrate was concentrated and the target substance (9.6 g, 85%) was obtained as a colorless oily material by distillation under reduced pressure. (3S)-3-methyl-piperidine (S)-(+)-mandelate was manufactured by the method described in the literature (J. Org. Chem., 1987, Vol. 52, p. 5466).

reactant | (3S)-3-methyl-piperidine (S)-(+)-mandelate | 79.1 mmol, 19.9 g | C[C@@H]1CNCCC1.C([C@@H](O)C1=CC=CC=C1)(=O)[O-]
reactant | 3-bromo-1-propanol | 71.9 mmol, 10 g | BrCCCO | C3H7BrO
reactant | potassium carbonate | 108 mmol, 14.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3S)-3-methyl-piperidine (S)-(+)-mandelate | C([C@@H](O)C1=CC=CC=C1)(=O)O.C[C@@H]1CNCCC1
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-[(3S)-3-methylpiperidin-1-yl]propan-1-ol | C[C@@H]1CN(CCC1)CCCO | C9H19NO
